US05208241
17-ethyl-1-hydroxy-12-[2'-(4"-hydroxy-3"-isopropyloxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo-[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone
To a solution of 17-ethyl-1-hydroxy-12-[2'-(4",3"-dihydroxyoxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo-[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone (200 mg) in diethyl ether (6 ml) is added boron trifluoride etherate (10 ml) followed by freshly prepared 2-diazopropane (100-fold excess). The mixture is stirred at room temperature for 15 min. and quenched with sat'd aqueous sodium bicarbonate solution. The organic layer is separated, washed with sat's NaCl and dried over sodium sulfate. Removal of solvent followed by preparative TLC on silica gives the title compound and its 4" isomer.

reactant | 17-ethyl-1-hydroxy-12-[2'-(4",3"-dihydroxyoxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo-[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone | 200 mg | C(C)C1C(CCC(C(OC(C2CCCCN2C(C(C2(C(CC(C(C(CC(CC(=C1)C)C)OC)O2)OC)C)O)=O)=O)=O)C(=CC2CC(C(CC2)OO)OO)C)C)=O | C42H67NO13
reactant | boron trifluoride etherate | 10 ml | B(F)(F)F.CCOCC
reactant | 2-diazopropane | [N+](=[N-])=C(C)C | C3H6N2
solvent | diethyl ether | 6 ml | C(C)OCC | C4H10O
product | 17-ethyl-1-hydroxy-12-[2'-(4"-hydroxy-3"-isopropyloxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo-[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone | C(C)C1C(CCC(C(OC(C2CCCCN2C(C(C2(C(CC(C(C(CC(CC(=C1)C)C)OC)O2)OC)C)O)=O)=O)=O)C(=CC2CC(C(CC2)O)OC(C)C)C)C)=O | C45H73NO11
